US08034812B2
Production of 2-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide
Using 2-chloro-3-(trifluoromethyl)benzoic acid (88 mg, 0.39 mmol), oxalyl chloride (42 μL, 0.49 mmol), N,N-dimethylformamide (1 drop), tetrahydrofuran (3.0 mL), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (100 mg, 0.32 mmol) and N-methylpyrrolidone (4.0 mL) as starting materials and in the same manner as in Example 335, the title compound (110 mg, 68%) was obtained as a white powder.

reactant | 2-chloro-3-(trifluoromethyl)benzoic acid | 0.39 mmol, 88 mg | ClC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H4ClF3O2
reactant | oxalyl chloride | 0.49 mmol, 42 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.32 mmol, 100 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 4.0 mL | CN1C(CCC1)=O | C5H9NO
product | 2-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-3-(trifluoromethyl)benzamide | 110 mg, 68% | ClC1=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC=C1C(F)(F)F | C24H17ClF3N5O3
